US06468487B1
In an atmosphere of nitrogen, 22 mmole of acetyl chloride and 24 mmole of triethylamine were dissolved in 2 ml of tetrahydrofurane (THF). To the resultant solution, 10 ml of solution containing 10 mmole of 1,3-diaminoadamantane obtained by the method of Example 65 in N,N-dimethylformamide (DMF) was added and then stirred for 3 hours at 40° C. As a result, the conversion of 1,3-diaminoadamantane was 99%, and 1,3-bis(acetylamino)adamantane (yield 95%) was formed.

reactant | acetyl chloride | 22 mmole | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 24 mmole | C(C)N(CC)CC | C6H15N
reactant | 1,3-diaminoadamantane | 10 mmole | NC12CC3(CC(CC(C1)C3)C2)N | C10H18N2
reactant | tetrahydrofurane | 2 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1,3-bis(acetylamino)adamantane | yield 95% | C(C)(=O)NC12CC3(CC(CC(C1)C3)C2)NC(C)=O | C14H22N2O2
